US05523462
Ethyl 3,3-biscarbethoxy-5-oxo-hexanecarboxylate
4 ml (0.037 mol) of ethyl chloroacetate were added dropwise to a suspension of 2.1 g (0.037 mol) of finely powdered potassium hydroxide, 8 g (0.037 mol) of ethyl 2-carbethoxy-4-oxo-valerate, approx. 0.1 g of benzyltriethylammonium chloride and 150 ml of dimethylformamide. After about 15 hours' stirring at 20°-25° C., 2 ml (0.017 mol) of ethyl chloroacetate and 1 g (0.016 mol) of potassium hydroxide were again added to complete the reaction. The mixture was again stirred at 20°-25° C. for 2 hours, after which the reaction products were partitioned between ethyl acetate and 20 % strength by weight ammonium chloride solution. The organic phase was washed twice, each time with 50 ml of 20 % strength by weight ammonium chloride solution, then dried and evaporated down. Yield: 9.5 g of an oil containing 91% of the product. Purification was effected by fractional distillation (bp0,l mm HG : 135° C.).

reactant | ethyl chloroacetate | 0.037 mol, 4 ml | ClCC(=O)OCC | C4H7ClO2
reactant | potassium hydroxide | [OH-].[K+]
reactant | ethyl 2-carbethoxy-4-oxo-valerate | 0.037 mol, 8 g | C(=O)(OCC)C(C(=O)OCC)CC(C)=O | C10H16O5
reactant | ethyl chloroacetate | 0.017 mol, 2 ml | ClCC(=O)OCC | C4H7ClO2
reactant | potassium hydroxide | 0.016 mol, 1 g | [OH-].[K+]
reactant | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
catalyst | benzyltriethylammonium chloride | approx. 0.1 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
product | Ethyl 3,3-biscarbethoxy-5-oxo-hexanecarboxylate | C(=O)(OCC)C(CCC(=O)OCC)(CC(C)=O)C(=O)OCC | C15H24O7
